Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / azithromycin / pneumococcal vaccine / heparin
 
Attending: ___
 
Chief Complaint:
Worsening SOB  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ lady with HTN, Afib not on AC, and vaginal 
bleeding of unclear etiology coming in at request of PCP with 
progressive SOB.  
Patient was receiving care from physician at ___ program but 
just established care at ___ on ___. In clinic she 
complained of 3 weeks of progressive SOB worse with exertion and 
lying down. ___ edema, orthopnea. Outpatient, BNP was >16k and 
CXR showed interstitial edema. PMD called patient this morning 
with results and asked her to come in to ___ ED.  
No CP, palpitations, PND, F/C, N/V, diarrhea, dysuria, BRBPR, 
melena.  

In the ED initial vitals were: 98.3F, 76, 130/100, 26, 94% 
oxygen but subsequent BP 218/105  
EKG: Afib, Left axis, LVH, no ST changes  
Labs/studies notable for: Na 147, Cr 1.2, Trop  
CXR with fluid overload and mild interstitial edema. Bibasilar 
atelectasis.  
Patient was given: Hydralazine 12.5mg PO x2, Furosemide 40mg 
POx1  
Vitals on transfer: 97.4, HR 55, BP 170/73, 17, 100% RA  

On the floor, patient feel fine.  
ROS:  As above  
 
Past Medical History:
Vaginal Bleeding w/ unknown procedure (___)  
h/o Dilation and Curettage requiring ICU admission (___),  
TIA (per patient while in her ___ or ___  
HTN
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
====================
EXAM ON ADMISSION
====================
VS: BP=186/87 HR=54 RR=20 O2 sat= 100 on 3L  
GENERAL: WDWN AA lady in NAD.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of cm.  
CARDIAC: PMI nonpalpable. Irregularly irregular IV/VI mid 
systolic murmur radiating to R carotid. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. 
Diminished breaths L > R. Difficult to appreciate crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: 1+ ___ edema b/l to mid shins. No clubbing or 
chills. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

====================
EXAM ON DISCHARGE
====================
Vitals: 97.8, 166/86, 73, 20, 95% on RA 
Today's weight: 104.5
Weight on admission 103.7
General: no acute distress, speaking in full sentences without 
difficulty breathing 
HEENT: disconjugate gaze
Neck: JVP mildly elevated to ~10cm
Lungs: intermittent crackles 
CV: Irregular rhythm with early peaking systolic ejection murmur
Abdomen: obese, soft, non tender
Ext: difficult to appreciate edema given excess soft tissue
 
Pertinent Results:
========================
LABS ON ADMISSION
========================
___ 06:50PM BLOOD WBC-4.8 RBC-5.18 Hgb-14.4 Hct-48.3* 
MCV-93 MCH-27.8 MCHC-29.8* RDW-14.7 RDWSD-50.3* Plt ___
___ 06:50PM BLOOD Neuts-62.6 ___ Monos-10.9 
Eos-0.2* Baso-1.1* Im ___ AbsNeut-2.98 AbsLymp-1.19* 
AbsMono-0.52 AbsEos-0.01* AbsBaso-0.05
___ 06:50PM BLOOD Glucose-86 UreaN-23* Creat-1.2* Na-147* 
K-4.4 Cl-106 HCO3-22 AnGap-23*
___ 06:55AM BLOOD ALT-14 AST-28 AlkPhos-116* TotBili-0.6
___ 08:49PM BLOOD ___
___ 08:49PM BLOOD cTropnT-<0.01
___ 06:55AM BLOOD cTropnT-<0.01
___ 06:50PM BLOOD Calcium-9.3 Phos-2.9 Mg-1.9

========================
INTERVAL PERTINENT LABS
========================
___ 08:05AM BLOOD VitB12-647
___ 06:55AM BLOOD %HbA1c-5.8 eAG-120
___ 06:55AM BLOOD Triglyc-106 HDL-43 CHOL/HD-5.5 
LDLcalc-173*
___ 06:55AM BLOOD TSH-3.1

========================
LABS ON DISCHARGE
========================
___ 09:00AM BLOOD WBC-3.0* RBC-4.51 Hgb-12.4 Hct-41.6 
MCV-92 MCH-27.5 MCHC-29.8* RDW-14.6 RDWSD-48.9* Plt ___
___ 08:49PM BLOOD Neuts-59.1 ___ Monos-10.7 
Eos-0.2* Baso-0.9 Im ___ AbsNeut-2.60 AbsLymp-1.27 
AbsMono-0.47 AbsEos-0.01* AbsBaso-0.04
___ 09:00AM BLOOD Glucose-116* UreaN-37* Creat-1.1 Na-138 
K-4.1 Cl-101 HCO3-31 AnGap-10
___ 09:00AM BLOOD Calcium-9.0 Phos-2.6* Mg-2.0

========================
MICROBIOLOGY
========================
___ 8:31 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

========================
IMAGING
========================
___ CXR  
AP upright and lateral views the chest were provided.  Lung 
volumes are low limiting assessment.  Elevation of the right 
hemidiaphragm is again noted. There is bibasilar atelectasis.  
Hilar congestion and mild pulmonary edema is noted.  No large 
effusions are seen.  Heart size cannot be assessed.  Mediastinal 
contour appears grossly unchanged with atherosclerotic 
calcifications of the aortic knob.  Bony structures are grossly 
intact. 

___ TTE 
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is at least 15 mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). There is no ventricular septal defect. The 
right ventricular cavity is dilated with borderline normal free 
wall function. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) are 
mildly thickened. There is moderate aortic valve stenosis (valve 
area 1.0-1.2cm2). Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. Tricuspid regurgitation is present but cannot be 
quantified. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion.  

___ - NCHCT 
1. Technically limited exam due to motion artifact and streak 
artifact fromthe patient's earrings.
2. 6 mm hyperdensity anterior to the left cerebellar hemisphere 
likely represents calcified choroid plexus in the foramen of 
Luschka or other calcification.  No clear evidence for 
hemorrhage.
3. No CT evidence for an acute major vascular territorial 
infarction is seen.
 RECOMMENDATION(S):
1. Repeated CT could be considered after the patient syrinx a 
removed and when the patient may be better able to cooperate 
with holding still.
2. If there is a high clinical suspicion for an acute infarction 
in the setting of hypertensive emergency, then MRI should be 
considered.

___: ___ b/l 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

___: 
Severe cardiomegaly and pulmonary vascular engorgement are 
unchanged since
___.  Mild pulmonary edema on present on ___ has 
resolved. 
Atelectasis in the right middle lobe and atelectasis or 
consolidation in theinfrahilar left lower lobe are unchanged.  
Pleural effusions are small if any.No pneumothorax.
 
Chest CT scanning would be useful to determine the extent of 
pulmonary
abnormality the size of right pleural effusion, and the presence 
if any
pericardial effusion.  Chest CTA would of course be diagnostic 
regarding
pulmonary emboli.

 
Brief Hospital Course:
Ms. ___ is a ___ lady with HTN, Afib not on AC, and vaginal 
bleeding of unclear etiology p/w progressive SOB, elevated BNP, 
pulmonary edema, and SBP 210 c/w hypertensive emergency with new 
heart failure.  

#Acute on chronic diastolic heart failure: As an outpatient, 
patient was found to have a BNP 16k and a CXR w/ pulmonary 
edema, with patient feeling increasingly symptomatic for past 
several weeks. Also of note, the patient's previous provider was 
contacted, and stated that she had been prescribed lasix 80mg PO 
daily, but had not been taking it at home. She had been coming 
in to the clinic once or twice a week, and often would be 
encouraged to take this dose while at the clinic. The patient 
had left this provider in early ___, and had not received 
any lasix since.The patient was initially diuresed with IV lasix 
on admission. She was also started on lisinopril. However, after 
a few days, her creatinine increased from 1.1 to 2.1 and she was 
having periods where she was becoming hypotensive, and so the 
lasix and lisinopril were stopped. The patient was also started 
on imdur and hydral, but due to her periods of hypotension, the 
both were stopped. It was also noted that the patient had 
refused statins in the outpatient setting, and continued to do 
so during this hospitalization. She was discharged on aspirin 
81mg, amlodipine 5mg PO qday, and furosemide 40mg PO qday with 
good BP control and improvement in dyspnea. The patient should 
f/u with her cardiology and her primary care physician for 
further management of her CHF and monitoring and encouragement 
of medication compliance. 

#Afib, chronic: After discussion with the patient's previous 
provider, it was determined that the patient had chronic afib 
for several years. They had several discussions with the patient 
about the risk of stroke and anticoagulation, but were concerned 
about her nonadherance to medications, and so none was 
prescribed.  Her current CHADS2VASc was calculated to be 5. She 
was not started on anticoagulation in the hospital, with that 
decision deferred to the outpatient setting. Her afib was 
complicated by bradycardia to the high ___ and pauses of up to 
2.3 sec, during which times she remained asymptommatic. Due to 
this bradycardia, beta-blockers were held, and her heart rate 
improved to the ___ throughout the remainder of her 
hospitalization.  The patient should f/u with her PCP and her 
cardiologist for further consideration of anticoagulation and 
rate control, if needed. 

#Hypertensive Emergency: 
On presentation, the patient's initial BP was found to be 
210/110. The patient's metoprolol was converted to carvedilol 
for better blood pressure management. She was also started on 
lisinopril. While this did improve her blood pressure, she was 
found to be bradycardic to the ___ overnight, and the carvedilol 
was stopped. The lisinopril was stopped due to ___. She was 
started on isordil and hydralazine. However, she had two 
episodes of hypotension, and therefore the hydralazine and 
isordil were stopped. The patient was started on amlodipine. 

#Confusion/encephalopathy - Per patient's daughter and previous 
outpatient clinic, patient is normally oriented x3. However, 
while in the hospital, the patient was noted to not be oriented 
to year. Therefore, she underwent a NCHCT, which was a poor 
study with no acute stroke, but with 6 mm hyperdensity anterior 
to the left cerebellar hemisphere,  likely representing a 
calcified choroid plexus in the foramen of Luschka or other 
calcification. An infectious workup was also done, which showed 
a UTI. The patient was treated with three days of ciprofloxacin, 
and her mental status improved. On discharged, she was alert and 
oriented x3. 

#UTI - As above, patient found to have UTI with pan-sensitive E. 
Coli, and received three days of cipro. The patient continued to 
have foul smelling her urine and repeat UA and UCx were 
suggestive of urinary tract infection with E. Coli once again. 
The patient was treated with ciprofloxacin 250mg PO qday x7 days 
for complicated cystitis which was completed on ___.

#Moderate aortic stenosis - The patient was noted to have a 
murmur consistent with AS, and a TTE showed  moderate aortic 
valve stenosis (valve area 1.0-1.2cm2). A TTE done by her prior 
providers in ___ also reportedly showed moderate AS. The 
patient was diuresed as above.

# ___ on CKD Stage III: based on Cockcraft-Gault w/ adjusted 
body weight and Cr 1.1.  With diuresis and lisinopril, the 
patient's creatinine increased to 2.1. Lisinopril and further 
diuresis were stopped, and the creatinine began to improve to 
1.4 at the time of discharge.

#Thrombocytopenia: The patient presented with mild 
thrombocytopenia which worsened while in the hospital. The 
patient's SQ heparin was held at that time. The patient's 
platelet count improved. The patient was restarted on SQ heparin 
and after 3 days of this therapy, the patient's platelet count 
once again dropped from 130s to ___. Given the timeline, the 
patient was suspected to have type 1 HIT. Her 4T score was found 
to be 2 (for thrombocytopenia, 50% drop in platelets). The 
patient's PF4 antibodies were found to be weakly positive. With 
these results and the patient's 4T score, per HIT algorithm, the 
patient can likely safely use heparin in the future. The patient 
should f/u with her PCP and her cardiology for further 
evaluation and management. 

#History of vaginal bleeding: the patient reported a history of 
vaginal bleeding which had been worked-up to unknown extent at 
___. The patient could not remember which 
doctor she had seen at ___. Though we attempted to obtain 
records, without further direction from the patient, records 
were never found. The patient reported that she did not want any 
further work up for this vaginal bleeding. The patient should 
f/u with her PCP for further evaluation if wanted and if in 
keeping with her personal goals. 

======================
TRANSITIONAL ISSUES
======================
- Discharge weight: 103.7kg 
- In speaking with the patient's outpatient caregivers, it 
appears that the patient is not compliant with her medications. 
For this reason, and because the patient has a recent history of 
vaginal bleeding, the patient is not on anticoagulation for her 
afib.
- The patient was found to be hypertensive to the 220s/120s. 
However, she at times would fall to the ___ without a clear 
trigger, and so her inpatient regimen was tapered to only 
amlodipine 5mg PO qday 
- Due to the patient's labile blood pressures, secondary 
hypertension could be considered, to be further worked up in the 
outpatient setting.
- The patient had asymptomatic bradycardia to the high ___. For 
this reason, her home metoprolol was stopped.
- The patient declined to take a statin.
- Speaking with the patient's previous providers about her 
vaginal bleeding, it seems that there continues to be concern 
for endometrial cancer. The patient reportedly had an equivocal 
biopsy in ___, and was recommended to have repeat testing. 
- The patient's previous providers note that she has a history 
of a positive TB test, with a negative CXR. Further testing or 
treatment should be considered.
- Please note medication changes:
STOP Metoprolol
START Furosemide 40 mg daily
START Amlodipine 5 mg daily
# Code - Full
# CONTACT: ___ (daughter ___ & ___ (son, 
lives in ___ ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Ciprofloxacin HCl 250 mg PO Q24H Duration: 7 Days 
RX *ciprofloxacin HCl [Cipro] 250 mg 1 tablet(s) by mouth daily 
Disp #*5 Tablet Refills:*0
4. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Acute on chronic diastolic heart failure
Moderate aortic stenosis
Hypertension
Acute on Chronic kidney disease, stage III

Secondary Diagnoses:
Atrial fibrillation, chronic

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being a part of your care team at ___ 
___. You were admitted because you were 
feeling like it was difficult to breathe, and a chest x-ray and 
blood work showed that you have heart failure. This is causing 
fluid to back up into your lungs, making it hard to breathe. We 
gave you medicine to help get rid of some of the fluid, and you 
started to feel better. You should continue to take this 
medication, which is called Furosemide.

While in the hospital, you were found to have elevated blood 
pressure. We treated you with several different medication 
regimens to help control your blood pressure. You were 
discharged on a medicine called amlodipine which you should take 
every day to prevent your blood pressure from becoming too 
elevated.

Because of your heart failure, you should weigh yourself 
everyday, and call your doctor at ___ if your weight 
increases by more than 2lb.

Sometimes your heart would beat very slowly. For this reason, 
please do not take your metoprolol anymore until you talk with 
your doctor.

Please keep taking your aspirin to protect your heart.

In talking to your doctors, it seems that you do not always take 
your medications. These medications are very important to help 
improve your blood pressure and to help your heart. 

You also had an infection in your urine, and so we gave you 
antibiotics.

Please note medication changes:
STOP Metoprolol
START Furosemide 40 mg daily
START Amlodipine 5 mg daily

We have made appointments for you to see a doctor that works 
with Dr. ___, as well as a heart doctor. Please see below 
for more information about these appointments.

It was very nice to meet you, and we wish you all the best with 
your recovery. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___